US07262023B2
A solution of 500 mg of 11β-fluoro-17β-hydroxy-7α-methylestr-4-en-3-one in 7.5 ml of pyridine was mixed at room temperature with 750 mg of 4-sulfamoylbenzoic acid, 800 mg of N,N-dicyclohexylcarbodiimide as well as 125 mg of p-toluenesulfonic acid and stirred for 8.5 hours. Then, it was added to sodium bicarbonate solution, extracted four times with dichloromethane, washed neutral, dried on sodium sulfate, concentrated by evaporation in a vacuum, and chromatographed on silica gel with dichloromethane/acetone. 302 mg of 11β-fluoro-17β-(4-sulfamoylbenzoxy)-7α-methylestr-4-en-3-one with a melting point of 232° C. was obtained. [α]D=+100.5° (CHCl3).

reactant | 11β-fluoro-17β-hydroxy-7α-methylestr-4-en-3-one | 500 mg | F[C@@H]1[C@@H]2[C@H]3CCC(C=C3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)C)=O | C19H27FO2
reactant | 4-sulfamoylbenzoic acid | 750 mg | S(N)(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H7NO4S
reactant | p-toluenesulfonic acid | 125 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | pyridine | 7.5 ml | N1=CC=CC=C1 | C5H5N
product | 11β-fluoro-17β-(4-sulfamoylbenzoxy)-7α-methylestr-4-en-3-one | 302 mg | F[C@@H]1[C@@H]2[C@H]3CCC(C=C3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)OCC1=CC=C(C=C1)S(N)(=O)=O)C)=O | C26H34FNO4S
